US09085583B2
A mixture of compound tert-butyl 2-methyl-1-(3-(tosyloxy)butan-2-yl)-1H-indole-3-carboxylate (200 mg, 0.43 mmol) in N,N-dimethyl formamide (2 mL) was added sodium methanethiolate (994 mg, 1.44 mmol). The reaction mixture was stirred at 110° C. for 4 hours. The reaction was quenched by adding water (6 mL). The aqueous layer was extracted with ethyl acetate (30 mL×3), and the organic layer was concentrated. The crude product was purified by preparative TLC (elute: petroleum/ethyl acetate: 5:1) to give product tert-butyl 2-methyl-1-(3-(methylthio)butan-2-yl)-1H-indole-3-carboxylate (100 mg, yield: 68%). LRMS (M+H+) m/z: calc'd 333.18. found 334.

reactant | tert-butyl 2-methyl-1-(3-(tosyloxy)butan-2-yl)-1H-indole-3-carboxylate | 0.43 mmol, 200 mg | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C25H31NO5S
reactant | sodium methanethiolate | 1.44 mmol, 994 mg | C[S-].[Na+]
solvent | N,N-dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-methyl-1-(3-(methylthio)butan-2-yl)-1H-indole-3-carboxylate | 100 mg, yield: 68% | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)SC | C19H27NO2S
